US06057369
Diisopropyl azodicarboxylate (5 mL, 25 mmol) is added dropwise over 5 minutes to a solution of t-butyl 2-(1-hydroxy-5-phenylpentyl)acrylate (5.59 g, 19.3 mmol), benzoic acid (3 g, 25 mmol) and triphenyl phosphine (6.5 g, 25 mmol) in THF (100 mL) at -55° C. The reaction is maintained between -55 and -50° C. for 45 minutes and then the reaction is allowed to warm to 0° C. The solution is diluted with ether (300 mL) and washed with 1 N NaOH (2×40 mL) and brine (70 mL). The resulting solution is dried (MgSO4) and concentrated in vacuo. The crude reaction product is partially dissolved in 20% ether/petroleum ether and applied to a silica gel column as a slurry. The column is eluted using gradient elution (silica, 10 to 20% ether in petroleum ether) to obtain (E)-2-t-Butoxycarbonyl-7-phenylhept-2-enyl benzoate (6.2 g, 82%): 1H NMR (300 MHz, CDCl3) δ 8.01 (d, J=7.0 Hz, 2H), 7.53-7.49 (m, 1 H), 7.41 (t, J=7.5 Hz, 2H), 7.28-7.23 (m, 2H), 7.20-7.10 (m, 3H), 6.99 (t, J=7.8 Hz, 1H), 5.05 (s, 2H), 2.61 (t, J=7.5 Hz, 2H), 2.36 (q, J=7.5 Hz, 2H), 1.72-1.46 (m, 4H), 1.47 (s, 9H); MS (FAB) m/e 395 (M+H)+.

reactant | Diisopropyl azodicarboxylate | 25 mmol, 5 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | t-butyl 2-(1-hydroxy-5-phenylpentyl)acrylate | 19.3 mmol, 5.59 g | OC(CCCCC1=CC=CC=C1)C(C(=O)OC(C)(C)C)=C | C18H26O3
reactant | benzoic acid | 25 mmol, 3 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triphenyl phosphine | 25 mmol, 6.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ether | 300 mL | CCOCC | C4H10O
product | (E)-2-t-Butoxycarbonyl-7-phenylhept-2-enyl benzoate | 6.2 g, 82% | C(C1=CC=CC=C1)(=O)OC/C(=C\CCCCC1=CC=CC=C1)/C(=O)OC(C)(C)C | C25H30O4
